US06358972B1
5-Formyl-3-(1-Methylpiperidin-4-yl)-1H-Indole
To a slurry of potassium hydride (20% suspension in mineral oil, 4.30 g, 21.50 mmol) in 80 mL of anhydrous tetrahydrofuran at 0° C. was slowly added dropwise 5-bromo-3-(1-methylpiperidin-4-yl)-1H-indole (6.0 g, 20.5 mmol) in 80 mL of anhydrous tetrahydrofuran. After stirring at 0° C. for 30 minutes, the mixture was cooled to −78° C., and tert-butyl lithium (1.7 M solution in pentane, 45.0 mmol, 26.5 mL) was added dropwise. After 15 minutes, a solution of anhydrous N,N-dimethylformamide (30.7 mmol, 2.4 mL) in 10 mL of anhydrous tetrahydrofuran was added dropwise. The stirred mixture was allowed to warm to room temperature, and was quenched with a 5N aqueous sodium hydroxide solution. The aqueous phase was extracted with diethyl ether, and the ether extracts were separated, washed with brine, dried over sodium sulfate, filtered, concentrated in vacuo and purified by silica gel (flash) chromatography (dichloromethane:methanol 9.5:0.5) to give 2.26 g (45%) of the title product as an oily solid. MS(FD) m/e=242 (M+). EA calculated for C15SH18N2O. ½ H2O: C, 71.69; H, 7.21; N, 11.14. Found: C, 71.38; H, 6.87; N, 11.06.

reactant | potassium hydride | 21.50 mmol, 4.30 g | [H-].[K+]
reactant | 5-bromo-3-(1-methylpiperidin-4-yl)-1H-indole | 20.5 mmol, 6.0 g | BrC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H17BrN2
reactant | tert-butyl lithium | 45.0 mmol, 1.7 M, 26.5 mL | C(C)(C)(C)[Li]
reactant | N,N-dimethylformamide | 30.7 mmol, 2.4 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 5-Formyl-3-(1-Methylpiperidin-4-yl)-1H-Indole | 2.26 g, 45% | C(=O)C=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C15H18N2O
